US07427631B2
5-Chloro-2-(1-methanesulfonyl-piperidine-4-yloxy)-pyridine
5-Chloro-2-(piperidine-4-yloxy)-pyridine (2.13 g; 10 mmol) (preparation of this compound was made as described in WO 99-GB2801), diisopropylethylamine (2.20 ml; 12.5 mmol) and Methanesulfonyl chloride (1.56 ml; 10.1 mmol) gave 2.14 g (74%) of the title compound.

reactant | 5-Chloro-2-(piperidine-4-yloxy)-pyridine | 10 mmol, 2.13 g | ClC=1C=CC(=NC1)OC1CCNCC1 | C10H13ClN2O
reactant | diisopropylethylamine | 12.5 mmol, 2.20 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Methanesulfonyl chloride | 10.1 mmol, 1.56 ml | CS(=O)(=O)Cl | CH3ClO2S
product | 5-Chloro-2-(1-methanesulfonyl-piperidine-4-yloxy)-pyridine | 2.14 g, 74% | ClC=1C=CC(=NC1)OC1CCN(CC1)S(=O)(=O)C | C11H15ClN2O3S
